Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.93751182858
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:6],3.2424042290099995
[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[C:4]([H:5])[H:6].[H:1][C:2]#[C:3],7.439783519600001
[C:1]1[C:2]([H:3])=[C:4]1[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[C:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.3241646117
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:5],2.39706508982
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[H:1].[O:2]=[C:3]([C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10],2.77336666034
[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]#[C:6][H:7].[O:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[H:11],4.41137199284
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9].[H:10],4.67523844357
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],6.60640168955
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2],10.575060280399999
[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.83723970958
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.92271929105
[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.33197764511
[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.22828150187
[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.1652112443
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]#[C:5][C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],2.16165033801
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.630710973999999
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4],2.2047464959900003
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:5],2.29590406344
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],5.41059132832
[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:4].[O:1][O:2][C:3]#[C:5][C:6]([H:7])[H:8],4.14760033921
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],3.91412778856
[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.69222037786
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.9898645017000005
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],4.0199443391
[C:3]([H:7])([C:8][O:11][H:12])([H:9])[H:10].[H:1][O:2][C:4]([H:5])[H:6]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.28259508178
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10][H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.97510260933
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7](=[O:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[O:8])[H:9],-5.00437469389
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:2]=[C:3]([H:4])[C:11]([H:12])[H:13],0.131713792638
